US04563459
A mixture of 1.2 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid, 1.13 g of ethyl iodide, 0.73 g of triethylamine and 20 ml of N,N-dimethylformamide is heated at 70°-80° C. for 2.5 hours. The solvent is distilled off in vacuo and the residue is suspended in water. The solid is filtered off with suction, rinsed with water and pressed off on clay. 1.15 g of 1-cyclopropyl-6-fluoro-7-(4-ethyl-1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydriodide of decomposition point 306° C. are obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 1.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | ethyl iodide | 1.13 g | C(C)I | C2H5I
reactant | triethylamine | 0.73 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-6-fluoro-7-(4-ethyl-1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydriodide | 1.15 g | I.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC)F)=O)C(=O)O | InChI=1S/C19H22FN3O3.HI/c1-2-21-5-7-22(8-6-21)17-10-16-13(9-15(17)20)18(24)14(19(25)26)11-23(16)12-3-4-12;/h9-12H,2-8H2,1H3,(H,25,26);1H
